.SUBCKT tip102 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan 20, 03
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 11.2198
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.56651e-10
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS tip102

